US04473709
Under a dry nitrogen atmosphere, 6.1 g (0.027 mole) of N,N-dimethyl-[1,1'-biphenyl]-2-methanamine was dissolved with stirring in 6.4 ml of anhydrous ethanol. To this solution 5.1 g (0.036 mole) of methyl iodide was added slowly. After complete addition, the reaction mixture was heated at reflux temperature for 45 minutes, then cooled. Diethyl ether was added until the mixture was cloudy, then the whole was placed in a freezer for 16 hours. An oil which had formed in the mixture was separated then dissolved in ethanol, and the solution was concentrated under reduced pressure to give 10.0 g (100% yield) of N,N,N-trimethyl-[1,1'-biphenyl]-2-methanaminium iodide as a brittle yellow foam.

reactant | N,N-dimethyl-[1,1'-biphenyl]-2-methanamine | 0.027 mole, 6.1 g | CN(CC=1C(=CC=CC1)C1=CC=CC=C1)C | C15H17N
reactant | methyl iodide | 0.036 mole, 5.1 g | CI | CH3I
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 6.4 ml | C(C)O | C2H6O
product | N,N,N-trimethyl-[1,1'-biphenyl]-2-methanaminium iodide | 10.0 g, 100% yield | [I-].C[N+](CC=1C(=CC=CC1)C1=CC=CC=C1)(C)C | InChI=1S/C16H20N.HI/c1-17(2,3)13-15-11-7-8-12-16(15)14-9-5-4-6-10-14;/h4-12H,13H2,1-3H3;1H/q+1;/p-1
